US08349824B2
{Methyl-[1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carbonyl]-amino}-acetic acid methyl ester
This compound was prepared in the same manner as described in example 92 starting from 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carbonyl chloride (Example 92, step a) (263 mg, 691 μmol) and methyl 2-(methylamino)acetate hydrochloride (482 mg, 3.45 mmol). Additional TEA (349 mg, 481 μl) was added to the reaction mixture. The final product was isolated as white solid (146 mg, 46%); MS: m/z=448.2 [M+H]+.

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carbonyl chloride | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)Cl | C18H13ClN6O2
reactant | methyl 2-(methylamino)acetate hydrochloride | 3.45 mmol, 482 mg | Cl.CNCC(=O)OC
product | {Methyl-[1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carbonyl]-amino}-acetic acid methyl ester | COC(CN(C(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C)C)=O | C22H21N7O4
